US05856326
1-(3-Amino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine trihydrochloride
Di-tert-butyl dicarbonate (0.282 g, 1.29 mmol) was added to a solution of 4-(2,3-diaminoprop-1-yl)-2(S)-butyl-1-(1-naphthoyl)piperazine (0.476 g, 1.29 mmol) in dichloromethane (10 mL). The reaction was stirred a total of 2 h at 20° C., then quenched and extracted with water. The organic phase was washed with saturated brine and dried over magnesium sulfate. The crude product was chromatographed on silica gel with 5% methanol in chloroform followed by 5% (9:1 methanol-ammonium hydroxide) in chloroform. The title compound was isolated as the major product. FAB ms (m+1) 469.

reactant | Di-tert-butyl dicarbonate | 1.29 mmol, 0.282 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(2,3-diaminoprop-1-yl)-2(S)-butyl-1-(1-naphthoyl)piperazine | 1.29 mmol, 0.476 g | NC(CN1C[C@@H](N(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC)CN | C22H32N4O
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-Amino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine trihydrochloride | Cl.Cl.Cl.NCC(CN1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC)NCC1=CC2=CC=CC=C2C=C1 | InChI=1S/C33H40N4O.3ClH/c1-2-3-13-30-24-37(33(38)32-15-8-12-27-10-6-7-14-31(27)32)19-18-36(30)23-29(21-34)35-22-25-16-17-26-9-4-5-11-28(26)20-25;;;/h4-12,14-17,20,29-30,35H,2-3,13,18-19,21-24,34H2,1H3;3*1H/t29?,30-;;;/m0.../s1
